US06248740B1
Production of 2-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanol
1.29 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 0.451 g of 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropanol were stirred at 190-200° C. for 90 minutes. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate. The extract was washed with saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (90:10:1). The desired fraction was collected; the residue was recrystallized from ethyl ether to yield 0.465 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.29 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropanol | 0.451 g | ClC=1C=CC=2N(N1)C=C(N2)C(CO)(C)C | C10H12ClN3O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-[6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropanol | 0.465 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(CO)(C)C)C2=CC=CC=C2 | C31H39N5O2
